US04077982
2-(tert-Butyl)-5-(2-fluorobenzyloxy)-5-methyl-1,3-dioxane
Using the procedure of Example 51, 2-(2-fluorobenzyloxy)-2-methyl-1,3-propanediol and 2,2-dimethylpropanal were reacted, using benzene as solvent, to give, after separation by column chromatography, r-2-(tert-butyl)-t-5-(2-fluorobenzyloxy)-5-methyl-1,3-dioxane, m.p. 50°-52°; and r-2-(tert-butyl)-C-5-(2-fluorobenzyloxy)-5-methyl-1,3-dioxane, m.p. 85°-87°. The ir and nmr spectra were consistent with the assigned structures.

reactant | 2-(2-fluorobenzyloxy)-2-methyl-1,3-propanediol | FC1=C(COC(CO)(CO)C)C=CC=C1 | C11H15FO3
reactant | 2,2-dimethylpropanal | CC(C=O)(C)C | C5H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(tert-Butyl)-5-(2-fluorobenzyloxy)-5-methyl-1,3-dioxane | C(C)(C)(C)C1OCC(CO1)(C)OCC1=C(C=CC=C1)F | C16H23FO3
